US03939180
b. 3-Bromo-4,5,6-Trimethoxy-Phthalide
4,5,6-Trimethoxyphthalide (11.4 gms; 0.05 mole), N-bromosuccinimide (8.9 gms; 0.05 mole) and azobisbutyronitrile (0.1 gms) were refluxed gently in dry carbon tetrachloride (200 mls) for 2 hours. The solution was cooled, the succinimide filtered off and the solvent removed in vacuo, leaving a yellowish solid which fumed in the air.

reactant | 4,5,6-Trimethoxyphthalide | 0.05 mole, 11.4 gms | COC1=C2COC(=O)C2=CC(=C1OC)OC | C11H12O5
reactant | N-bromosuccinimide | 0.05 mole, 8.9 gms | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisbutyronitrile | 0.1 gms | N(=NCCCC#N)CCCC#N | C8H12N4
solvent | carbon tetrachloride | 200 mls | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-4,5,6-Trimethoxy-Phthalide | BrC1OC(=O)C2=CC(=C(C(=C12)OC)OC)OC | C11H11BrO5
